US07645789B2
To a solution of (R)-3-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-5-nitro-1H-indol-2-yl)-3-methylbutan-1-ol containing some 3-(6-fluoro-5-nitro-1H-indol-2-yl)-3-methylbutan-1-ol (500 mg, 1.3 mmol) in ethanol (10 mL) was added ammonium formate (500 mg, 7.9 mmol) and Pd/C (10%, 139 mg, 0.13 mmol). The mixture was refluxed for 5 min. The Pd catalyst was removed via filtration through Celite and washed with ethanol. The filtrate was evaporated to dryness and purified by column chromatography (30-50% ethyl acetate-hexanes) to provide (R)-3-(5-amino-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-1H-indol-2-yl)-3-methylbutan-1-ol (220 mg, 48%, contains some 3-(5-amino-6-fluoro-1H-indol-2-yl)-3-methylbutan-1-ol). ESI-MS m/z calc. 350.2 found 351.4 (M+1)+. Retention time 0.94 minutes.

reactant | (R)-3-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-5-nitro-1H-indol-2-yl)-3-methylbutan-1-ol | CC1(OC[C@H](O1)CN1C(=CC2=CC(=C(C=C12)F)[N+](=O)[O-])C(CCO)(C)C)C | C19H25FN2O5
reactant | 3-(6-fluoro-5-nitro-1H-indol-2-yl)-3-methylbutan-1-ol | 1.3 mmol, 500 mg | FC1=C(C=C2C=C(NC2=C1)C(CCO)(C)C)[N+](=O)[O-] | C13H15FN2O3
reactant | ammonium formate | 7.9 mmol, 500 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.13 mmol, 139 mg | [Pd] | Pd
product | (R)-3-(5-amino-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-1H-indol-2-yl)-3-methylbutan-1-ol | NC=1C=C2C=C(N(C2=CC1F)C[C@H]1OC(OC1)(C)C)C(CCO)(C)C | C19H27FN2O3
